US07741315B2
Step 2: 11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-2-methyl-5,6,12,13-tetrahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,4,8,10(3H, 1H)-tetrone
A mixture of 11-(3-chloro-4-fluorobenzyl)-9-hydroxy-2-methyl-4-pyrrolidin-1-yl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (40 mg, 0.08 mmol) and 33% hydrogen bromide in acetic acid (0.5 mL) in dioxane (1 mL) was stirred at room temperature for 1.5 hour. The product mixture was concentrated under vacuum. The residue was dissolved in DMSO and subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and lyophilization of appropriate fractions afforded the title compound.

reactant | 11-(3-chloro-4-fluorobenzyl)-9-hydroxy-2-methyl-4-pyrrolidin-1-yl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.08 mmol, 40 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CC(CC4)N4CCCC4)C)=O)=O)O)=O)C=CC1F | C25H28ClFN4O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-2-methyl-5,6,12,13-tetrahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,4,8,10(3H, 1H)-tetrone | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CC(CC4)=O)C)=O)=O)O)=O)C=CC1F | C21H19ClFN3O5
